US04560699
A solution of methyl 1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate (Formula B where Y is hydrogen) the synthesis of which is described in Preparations 1 and 2 hereinabove, (3.0 g, 18 mmol) and the acid chloride of 4-vinylbenzoic acid [J. Chem. Education, 55, 813 (1978)] (10.0 g, 60 mmol) in anhydrous xylene (100 ml) was heated at reflux temperature for 6 hours. The solvent was removed in vacuo and the residue was purified by column chromatography on Act II neutral alumina (Fluka, 200 g). The product was eluted with hexane-ethyl acetate (95:5) to give 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2,a]pyrrole-1-carboxylic acid, (36%) which had mp 99°-100° after crystallization from methanol. The purified product exhibited the following characteristics:

reactant | methyl 1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C1(C=2N(CC1)C=CC2)C(=O)OC | C9H11NO2
reactant | 4-vinylbenzoic acid | 60 mmol, 10.0 g | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-(4-vinylbenzoyl)-1,2-dihydro-3H-pyrrolo[1,2,a]pyrrole-1-carboxylic acid | 36% | C(=C)C1=CC=C(C(=O)C2=CC=C3N2CCC3C(=O)O)C=C1 | C17H15NO3
